Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Pt is a ___ y/o with PMHx of h.pylori, asthma and DJD who 
presented with sore throat and abdominal pain. Of note, patient 
presented to the ED 6 days prior with fevers/chills, headache, 
body aches, sore throat. He was treated with IV fluids, toradol, 
and PO PCN (x 10d) for suspected viral illness with possible 
superimposed strep throat.

Since then, he reports that his sore throat has improved slight. 
Fevers/chills have resolved. However, yesterday, he developed 
epigastric pain radiating to the back. This was associated with 
nausea but no vomiting. 

ED Course:
Initial VS: 36.6 76 135/72 14 100% RA Pain ___
Labs significant for WBC 20. H/H ___.
Imaging: RUQ U/S showing "Prominent common bile duct measuring 
up to 7 mm, as well as a prominent pancreatic duct. No evidence 
of choledocholithiasis. No intrahepatic biliary dilatation. No 
cholecystitis. MRCP is recommended on a nonemergent basis."
Meds given:
___ 04:51 IV Morphine Sulfate 4 mg 
___ 04:51 IV Ondansetron 4 mg   
___ 06:55 IV Morphine Sulfate 4 mg   
___ 07:59 PO/NG Penicillin V Potassium 500 mg 
___ 07:59 IV Morphine Sulfate 4 mg 
___ 09:32 IV Morphine Sulfate 4 mg  
VS prior to transfer: 97.8 63 116/80 14 99% RA 

On arrival to the floor, he initially reported some "chest pain" 
after holding his breath for the MRCP, which had since resolved. 
On further questioning, he described this as more of fleeting 
sharp upper abdominal pain.

On exam, the patient endorses ongoing sore throat; however, this 
is improved from initial ED presentation 6 days ago. He reports 
that fevers and chills have resolved. He endorses ongoing 
abdominal pain (epigastric in location, radiating to the back), 
which he rates as "1000/10" to the RN. He does endorse some 
nausea earlier, but he states that it has resolved after getting 
nausea meds in the ED. Of note, he does endorse watery diarrhea, 
which began shortly after starting penicillin several days ago.

ROS: As above. Denies lightheadedness, dizziness, sinus 
congestion, chest pain, heart palpitations, shortness of breath, 
cough, vomiting, constipation, urinary symptoms, muscle or joint 
pains, focal numbness or tingling, skin rash. The remainder of 
the ROS was negative.
 
Past Medical History:
Asthma
DJD
H.pylori
 
Social History:
___
Family History:
Denies any family history of significant illness.
 
Physical Exam:
Admission Exam:
VS - 98.3PO 118 / 70 71 18 99 RA 
GEN - Alert, NAD
HEENT - NC/AT, OP without significant erythema or cobblestoning 
on my exam, no cervical LAD noted
NECK - Supple
CV - RRR, no m/r/g
RESP - CTA B
ABD - soft, BS present, TTP in the upper abdomen, negative 
___ sign, no r/g
BACK - no spinal TTP
EXT - No or calf tenderness noted
SKIN - No apparent rashes, numerous tattoos
NEURO - nonfocal
PSYCH - Calm, appropriate

Discharge Exam:
Vital Signs: Afebrile 98.4PO ___ 18 94 RA 
GEN: Alert, NAD, appears comfortable lying in bed
HEENT: NC/AT
CV: RRR, no m/r/g
PULM: CTA B 
GI: S/ND, BS present, diffuse mild TTP worst in the 
RUQ/epigastric region (no tenderness on repeat exam later in the 
day), no r/g
BACK: pain in the generalized lower back, no spinal TTP
EXT: no ___ edema or calf tenderness
NEURO: Non-focal, ___ strength in all 4 extremities
 
Pertinent Results:
Admission Labs:
___ 03:25AM BLOOD WBC-20.5* RBC-3.94* Hgb-12.0* Hct-36.3* 
MCV-92 MCH-30.5 MCHC-33.1 RDW-12.1 RDWSD-41.1 Plt ___
___ 03:25AM BLOOD Neuts-80.1* Lymphs-10.4* Monos-7.6 
Eos-0.6* Baso-0.3 Im ___ AbsNeut-16.45* AbsLymp-2.13 
AbsMono-1.55* AbsEos-0.12 AbsBaso-0.07
___ 03:25AM BLOOD Glucose-100 UreaN-14 Creat-1.2 Na-141 
K-4.2 Cl-105 HCO3-26 AnGap-14
___ 03:25AM BLOOD ALT-14 AST-18 AlkPhos-68 TotBili-<0.2
___ 03:25AM BLOOD Lipase-26
___ 03:25AM BLOOD cTropnT-<0.01
___ 03:25AM BLOOD Albumin-3.8 Calcium-9.0 Phos-3.6 Mg-2.1
___ 03:29AM BLOOD Lactate-1.8

Discharge Labs:
___ 07:40AM BLOOD WBC-11.4* RBC-4.47* Hgb-13.6* Hct-40.6 
MCV-91 MCH-30.4 MCHC-33.5 RDW-12.2 RDWSD-40.6 Plt ___
___ 07:40AM BLOOD Glucose-90 UreaN-13 Creat-1.0 Na-141 
K-4.5 Cl-102 HCO3-29 AnGap-15
___ 07:40AM BLOOD ALT-12 AST-12 AlkPhos-66 TotBili-0.4
___ 07:40AM BLOOD Calcium-9.6 Phos-3.1 Mg-2.2

___ 04:00AM URINE Color-Straw Appear-Clear Sp ___
___ 04:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 03:29PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

HELICOBACTER PYLORI AG - EQUIVOCAL BY EIA.

C.diff - test not sent ___ formed stool

URINE CULTURE (Final ___:    NO GROWTH. 

HELICOBACTER PYLORI AG, EIA, STOOL  - Not Detected

RUQ U/S - Prominent common bile duct measuring up to 7 mm, as 
well as a prominent
pancreatic duct.  No evidence of choledocholithiasis.  No 
intrahepatic biliary
dilatation.  No cholecystitis.

MRCP - IMPRESSION:  
1.  No evidence of cholelithiasis or choledocholithiasis.  Bile 
duct has
decreased in caliber and now measures,4 mm in caliber. 
2.  Top normal caliber main pancreatic duct without ductal 
irregularity or
dilated side branches.  No pancreatic lesion.  Normal-appearing 
pancreas
parenchyma.
 
Brief Hospital Course:
___ y/o with PMHx of h.pylori, asthma and DJD who presented with 
sore throat and abdominal pain. Of note, patient
presented to the ED 6 days prior with fevers/chills, headache, 
body aches, sore throat. He was treated with IV fluids, toradol, 
and PO PCN (x 10d) for suspected viral illness with possible 
superimposed strep throat. Was slowly getting better but then 
developed epigastric abdominal pain and nausea. 

# Abdominal Pain: While choledocholithiasis was initially a big 
concern, LFT's are WNL and MRCP largely unremarkable. Given 
recent ILI symptoms, viral gastroenteritis is also a 
possibility. Given his history of h.pylori, recurrent h.pylori 
and/or PUD could be contributing. Finally, given recent PO abx 
use, need to consider c.diff (pt does report recent watery 
diarrhea) as well as more benign GI side effects of abx. 
Symptoms improved with Tylenol, Carafate, 
diphenhydramine/lidocaine/maalox. Pt with formed stool in house, 
making c.diff unlikely. Serum h.pylori equivocal; however, stool 
testing negative, making this unlikely as well. Ultimately, 
symptoms likely related to viral gastroenteritis.

# Recent ILI: As above, pt recently presented to ED for sore 
throat and was diagnosed with presumed ILI with superimposed 
possible strep throat. Flu swab negative this admission. 
Continued PCN x 10 day course for presumed strep throat.

# Asthma: PRN albuterol

Discussed with patient at length that he needs a PCP. Gave him 
the number of HCA to establish care with a new provider.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler Dose is Unknown  IH Frequency is Unknown 
2. Penicillin V Potassium 500 mg PO Q12H 

 
Discharge Medications:
1.  Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN 
abdominal pain 
RX *alum-mag hydroxide-simeth [Maalox Advanced] 200 mg-200 mg-20 
mg/5 mL ___ mL by mouth twice a day as needed Refills:*0 
2.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Sucralfate 1 gm PO QID 
RX *sucralfate 1 gram 1 tablet(s) by mouth four times a day Disp 
#*120 Tablet Refills:*0 
4.  Albuterol Inhaler ___ PUFF IH 1X:ASDIR  
5.  Penicillin V Potassium 500 mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral URI / Gastroenteritis
Possible Strep Throat
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You presented to the hospital with sore throat and abdominal 
pain. You were continued on your penicillin for possible strep 
throat. You were tested for flu, which was negative. You had an 
ultrasound of your abdomen with showed possible gallstones; 
however, a follow up MRI did not show this. Ultimately, it was 
felt that your symptoms were likely related to a viral illness / 
gastroenteritis. Some of your nausea / abdominal pain could have 
also been a side effect of your antibiotics. You are currently 
feeling much better and are being discharged home.

Of note, we tested your stool for c.diff (an infection that can 
come from antibiotics) as well as h. pylori. We will let you 
know if these tests come back abnormal.

You are being given prescriptions for Maalox, pantoprazole, and 
sucralfate for your abdominal pain. Pantoprazole and sucralfate 
should be used regularly, while Maalox is as needed. When you 
see your PCP, you should discuss whether you should continue 
these medications. You may also take over-the-counter Tylenol 
for pain.
 
Followup Instructions:
___